* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1396.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 5
V2 -V 0 -5
R1 N002 N001 255
R2 N001 0 1.02K
X§U1 N005 N001 +V -V N002 LT1395
R3 N003 N002 63.4
R4 OUT N003 255
X§U2 N004 N003 +V -V OUT LT1395
R5 N005 0 3.01K
R6 IN- N005 12.1K
C1 N005 IN- .67p
R7 N004 0 3.01K
R8 IN+ N004 12.1K
C2 N004 IN+ .67p
V3 IN+ IN- SINE(0 1 1Meg)
.tran 10u
* Unity-Gain Video Loop-Through Amplifier
.lib LTC.lib
.backanno
.end
